US06608085B1
4-(1-Methoxy-2-(1-piperidinyl)ethyl)-2,8-bis(trifluoromethyl)quinoline
To an ice-cold solution of α-piperidinomethyl-2,8-bis(trifluoromethyl)-4-quinolinemethanol (60 mg, 0.15 mmol) in THF (1.5 mL) was added NaH (6 mg, 60% dispersion in oil, 0.15 mmol), the mixture stirred at 0° C. for 30 min, treated with methyl iodide (10 μL, 0.16 mmol), allowed to warm to room temperature and stirred for 1 h. The reaction mixture was poured into saturated NaHCO3, extracted with EtOAc (2×20 mL), the combined extracts dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2, EtOAc] to give the title compound (62 mg, 100%) as a pale yellow oil: IR νmax (Nujol)/cm−1 2937, 2855, 2824, 1603, 1585, 1309, 1188, 1147, 1108 and 769; NMR δH (400 MHz, CDCl3) 1.40-1.45 (2H, m), 1.52-1.66 (4H, m), 2.44-2.61 (5H, m), 2.84 (1H, dd, J 13.9, 7.8 Hz), 5.14 (1H, dd, J 7.8, 3.3), 7.74 (1H, t, J 7.7 Hz), 7.92 (1H, s), 8.17 (1H, d, J 6.9 Hz) and 8.45 (1H, d, J 8.5 Hz).

reactant | α-piperidinomethyl-2,8-bis(trifluoromethyl)-4-quinolinemethanol | 0.15 mmol, 60 mg | N1(CCCCC1)CC(O)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C18H18F6N2O
reactant | NaH | 0.15 mmol, 6 mg | [H-].[Na+]
reactant | methyl iodide | 0.16 mmol, 10 μL | CI | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 4-(1-Methoxy-2-(1-piperidinyl)ethyl)-2,8-bis(trifluoromethyl)quinoline | 62 mg, 100% | COC(CN1CCCCC1)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C19H20F6N2O
